US07638515B2
5-{[2-Hydroxy-4-methyl-4-phenyl-2-(trifluoromethyl)pentylidene]amino}quinolin-2(1H)-one
Analogously to Example 13, 600 mg of 2-hydroxy-4-methyl-4-phenyl-2-(trifluoromethyl)pentanal and 337 mg of 5-aminoquinolin-2(1H)-one (52313) are converted into 570 mg of product.

reactant | 2-hydroxy-4-methyl-4-phenyl-2-(trifluoromethyl)pentanal | 600 mg | OC(C=O)(CC(C)(C1=CC=CC=C1)C)C(F)(F)F | C13H15F3O2
reactant | 5-aminoquinolin-2(1H)-one | 337 mg | NC1=C2C=CC(NC2=CC=C1)=O | C9H8N2O
product | 5-{[2-Hydroxy-4-methyl-4-phenyl-2-(trifluoromethyl)pentylidene]amino}quinolin-2(1H)-one | OC(C=NC1=C2C=CC(NC2=CC=C1)=O)(CC(C)(C1=CC=CC=C1)C)C(F)(F)F | C22H21F3N2O2
